US04614833
2-chloro-4-(4-fluorobenzoyl)-pyridine
To a solution of 4.2 g 2-chloro-isonicotinoyl chloride in 25 ml. fluorobenzene there is added with cooling 11.7 g AlCl3. The mixture is heated at 70°-80° C. during 7 hrs. The crude is added to acidic (pH 1-2) cold water. The pH is raised until 4.5 with diluted aqueous NaOH. This aqueous organic mixture is extracted several times with methylene chloride. The combined extracts are washed with water, dried (Na2SO4) and distilled in a rotary evaporator. The remaining crude oil is purified through a silica column, eluting with ethyl ether: petroleum ether 1:3. Yield 5 g of the title product, m.p. 60°-3° C. (cyclohexane); UV (ethanol) λmax.: 262 nm, ε=10,250; Cl 15.30 (15.05); F 8.15 (8.06).

reactant | 2-chloro-isonicotinoyl chloride | 4.2 g | ClC=1C=C(C(=O)Cl)C=CN1 | C6H3Cl2NO
reactant | fluorobenzene | FC1=CC=CC=C1 | C6H5F
reactant | AlCl3 | 11.7 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | NaOH | [OH-].[Na+]
solvent | water | pH 1-2 | O | H2O
product | 2-chloro-4-(4-fluorobenzoyl)-pyridine | ClC1=NC=CC(=C1)C(C1=CC=C(C=C1)F)=O | C12H7ClFNO
